US03984412
e) 8-Butylamino-2,3,6-trimethylpyrido[2,3-b]pyrazine-7-carboxylic acid, ethyl ester
26.6 g. of 5,6-Diamino-4-butylamino-2-methylpyridine-3-carboxylic acid, ethyl ester (0.1 Mol) are dissolved in 150 ml. of toluene. 9 g. of diacetyl are added and the mixture is refluxed while the water formed is removed by a water separator. After about 5 hours, the theoretical amount of water is separated and the solution is evaporated to dryness. The dark oily residue is extracted twice with 100 ml. portions of gasoline and addition of activated charcoal. The gasoline extracts are combined and concentrated to about 100 ml. 8-Butylamino-2,3,6-trimethylprido[2,3-b]pyrazine-7-carboxylic acid, ethyl ester crystallizes on cooling, yield 21 g. (66%); m.p. 97°-99°.

reactant | 5,6-Diamino-4-butylamino-2-methylpyridine-3-carboxylic acid, ethyl ester | 0.1 Mol | NC=1C(=C(C(=NC1N)C)C(=O)OCC)NCCCC | C13H22N4O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 8-Butylamino-2,3,6-trimethylpyrido[2,3-b]pyrazine-7-carboxylic acid, ethyl ester | C(CCC)NC1=C(C(=NC2=NC(=C(N=C21)C)C)C)C(=O)OCC | C17H24N4O2
